US08563735B2
1-(tetrahydro-2H-pyran-4-yl)piperidin-4-ol
Piperidin-4-ol (7.8 g) and dihydro-2H-pyran-4(3H)-one (5.0 g) were dissolved in titanium(IV) isopropoxide (30 mL) and the reaction was stirred at room temperature overnight. Methanol (40 mL) was added and the reaction was cooled to 0°. NaBH4 (3.8 g) was added in several portions over one hour. After two hours 1N aqueous NaOH was added, followed by ethyl acetate addition. After filtration through celite, the layers were seperated, the aqueous layer was extracted with ethyl acetate, and the combined organic layers were dried over Na2SO4. The crude material was purified by column chromatography using CH2Cl2 with 5-10% 7N NH3 in methanol.

reactant | Piperidin-4-ol | 7.8 g | N1CCC(CC1)O | C5H11NO
reactant | dihydro-2H-pyran-4(3H)-one | 5.0 g | O1CCC(CC1)=O | C5H8O2
reactant | NaBH4 | 3.8 g | [BH4-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | titanium(IV) isopropoxide | 30 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Methanol | 40 mL | CO | CH4O
product | 1-(tetrahydro-2H-pyran-4-yl)piperidin-4-ol | O1CCC(CC1)N1CCC(CC1)O | C10H19NO2
